US08383932B2
Synthesis of 3-(5-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1,3,4-oxadiazol-2-yl)pyridine
12 g (40 mmol) of 3-(5-(3-bromophenyl)-1,3,4-oxadiazol-2-yl)pyridine according to Synthesis Example 8, 12.2 g (48 mmol) of bis(pinacolato)diboron, 0.98 g (3 mol %) of a complex of [1,1′-bis(diphenylphosphino)ferrocene]dichloro-palladium(II) with dichloromethane, 5.9 g (60 mmol) of potassium acetate were dissolved in 250 ml of dimethylformamide (DMF). The solution was reacted at 80° C. for 12 hours. The acquired reactant was extracted with ethyl acetate and treated under reduced pressure to remove the solvent. The extract was separated through a column and dried, obtaining 10 g (Y=71%) of a white solid.

reactant | 3-(5-(3-bromophenyl)-1,3,4-oxadiazol-2-yl)pyridine | 40 mmol, 12 g | BrC=1C=C(C=CC1)C1=NN=C(O1)C=1C=NC=CC1 | C13H8BrN3O
reactant | bis(pinacolato)diboron | 48 mmol, 12.2 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | potassium acetate | 60 mmol, 5.9 g | C(C)(=O)[O-].[K+]
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloro-palladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(5-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1,3,4-oxadiazol-2-yl)pyridine | CC1(OB(OC1(C)C)C=1C=C(C=CC1)C1=NN=C(O1)C=1C=NC=CC1)C | C19H20BN3O3
